Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
Ms. ___ is a ___ year old female with a PMHx of 
NIDDM, HTN, HLD who presents complaining of abdominal pain.  
 The patient was interviewed with a ___ interpreter over the 
phone.  
 She states that she has been having LUQ abdominal pain for two 
weeks. She is unable to identify exacerbating or relieving 
factors except that she has some pain with deep breaths. She 
also has back pain when she takes deep breaths. She had diarrhea 
last night that was watery and black. She denies fevers but has 
had chills. She also notes dysuria and needing to frequently go 
to the bathroom, but it is unclear if this is urinary frequency 
or from diarrhea.  
 According to her son she has been having nausea and leg 
swelling as well.  
 In the ED, initial vitals were: Pain 8, T 98, HR 92, BP 132/74, 
RR 22, O2 99% RA  
 Exam notable for suprapubic and epigastric ttp, CVA tenderness 
bilaterally, b/l ___ edema, brown stool, guaiac negative.  
 Labs showed U/A with 2 WBCs per HPF and trace ___, normal CBC, 
normal chem, neg lipase, neg trop x2, transaminitis and elevated 
alk phos.  
 Imaging showed CT abd pelvis showed no acute process. EKG was 
nonischemic.  
 Received:  
 ___ 15:37 IV Morphine Sulfate 4 mg  
 ___ 15:37 IV Ondansetron 4 mg  
 Decision was made to admit to medicine for pain control and 
because the patient was unable to tolerate PO.  
 On the floor, she was in mild distress and complained of 
ongoing abdominal and back pain  
 Review of systems: On review of systems, the patient noted R > 
L hand weakness, R hand/forearm pain, and R finger numbness that 
started gradually about 1 week ago and is worse at night. She 
also states she has poor memory. She denies chest pain.  
 
Past Medical History:
Hypertension  
Hyperlipidemia  
Non-insulin dependent diabetes mellitus  
Rosacea  
s/p cholecystectomy  

 
Social History:
___
Family History:
Patient does not know if any medical problems run in her family. 
 
 
Physical Exam:
ADMISSION EXAM
==================
Vital Signs: 98.3, 126/65, 77, 18, 95 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, tender to palpation worst in the epigastric and 
LUQ, non-distended, bowel sounds present, no organomegaly, no 
rebound or guarding  
 Back: CVA tenderness bilaterally  
 GU: No foley  
 Ext: Warm, well perfused, ___ ___ edema bilaterally  
 Neuro: Facial muscles grossly intact, 4+/___ 
strength LUE, grossly normal sensation  

DISCHARGE EXAM
===================
Vital Signs: 98.2  115-126/65-70  ___  18  99% RA
 General: Alert, oriented, no acute distress; morbidly obese  
 HEENT: Sclera anicteric, MMM, oropharynx clear  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Obese, soft, non-tender to palpation, non-distended, 
bowel sounds present, no organomegaly, no rebound or guarding  
 Back: CVA tenderness bilaterally; paraspinal muscle tenderness 
on mid and lower back 
 GU: No foley  
 Ext: Warm, well perfused, ___ non pitting edema bilaterally  
 Neuro: Facial muscles grossly intact, 4+/___ 
strength LUE, grossly normal sensation  

 
Pertinent Results:
ADMISSION LABS
===================
___ 08:25PM   cTropnT-<0.01
___ 02:45PM   GLUCOSE-121* UREA N-11 CREAT-0.7 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-32 ANION GAP-13
___ 02:45PM   estGFR-Using this
___ 02:45PM   ALT(SGPT)-92* AST(SGOT)-67* ALK PHOS-200* TOT 
BILI-0.5
___ 02:45PM   LIPASE-30
___ 02:45PM   cTropnT-<0.01
___ 02:45PM   ALBUMIN-4.4
___ 02:45PM   WBC-5.8 RBC-4.31 HGB-13.3 HCT-39.1 MCV-91 
MCH-30.9 MCHC-34.0 RDW-12.7 RDWSD-42.1
___ 02:40PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 02:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-TR
___ 02:40PM URINE  RBC-<1 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-1 TRANS EPI-<1

IMAGES/STUDIES
====================
CT Abdomen/Pelvis w/ Contrast ___:
IMPRESSION:   
No acute intra-abdominal process, no findings to explain 
patient's symptoms.  
Patient is status post cholecystectomy.  Diverticular disease is 
most 
pronounced within the sigmoid colon without evidence of 
diverticulitis. 
Trace fluid is present within the endometrial cavity, abnormal 
for patient of 
stated age.  
RECOMMENDATION(S):  Nonemergent pelvic ultrasound is advised for 
further 
evaluation. 
  
CXR ___:
IMPRESSION:  
Heart is upper limits of normal in size.  No focal opacity 
convincing for 
pneumonia. 

RUQ ___:
IMPRESSION:  
Echogenic liver consistent with steatosis. Other forms of liver 
disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded on the basis of this examination. 

DISCHARGE LABS
===================
___ 07:48AM BLOOD WBC-7.4 RBC-4.43 Hgb-13.3 Hct-40.0 MCV-90 
MCH-30.0 MCHC-33.3 RDW-13.1 RDWSD-42.6 Plt ___
___ 07:48AM BLOOD Glucose-107* UreaN-11 Creat-0.8 Na-143 
K-3.9 Cl-101 HCO3-30 AnGap-16
___ 07:48AM BLOOD Calcium-9.2 Phos-4.1 Mg-2.___ yo F PMH NIDDM, HTN, HLD, morbid obesity who presents 
complaining of abdominal pain, found to have transaminitis.  
 
 # Abdominal Pain: Unclear etiology; could be mixed picture with 
musculoskeletal pain and GERD. Patient's pain is on left upper 
quadrant and epigastric area, however moves all over her 
abdomen. Is constant, however relieved with her pain medications 
or with standing as she becomes distracted and forgets the pain. 
Does not change with food. No fevers or diarrhea. On review of 
systems endorsed black stools at times and "chills and hot 
flashes." Her symptoms had been present for about 2 weeks, 
however husband notes she has had these complaints for several 
months. Likely not pyelonephritis given bland UA (only 2 WBCs, 
no bacteria) and normal UA. Dysuria could be vaginitis vs 
urethritis. Review of systems positive for black bowel movements 
which are concerning for PUD, though her stool was guaiac 
negative in the ED. Patient endorses eating blackberries and 
blueberries several times per week, which could be reason for 
melenic stool. Hgb is normal so no urgent indication for 
endoscopy. CT abdomen pelvis shows no acute pathology, including 
normal kidneys and bladder. Lipase was negative. Patient with 
mildly elevated LFTs which could be from her recent CCY in 
___ vs her obesity. RUQ ultrasound obtained which 
showed diffusely echogenic liver consistent with hepatic 
steatosis, smooth contour, no masses, no ascites.   

 # Transaminitis: Laboratory studies showed transaminitis but 
patient's baseline is unknown and she may certainly have 
baseline elevation in LFTs given h/o cholecystectomy and also 
morbid obesity. The LFTs were downtrending. RUQ ultrasound was 
unremarkable, showed diffusely echogenic liver consistent with 
hepatic steatosis, smooth contour, no masses, no ascites.  

 # ACS Rule out: Given her gender and diabetic status, ACS was 
on differential, which was ruled out. EKG and first two trop in 
ED reassuring. 

 # NIDDM: Continue metformin 500 mg daily at home.   

 # Hypertension: Continue home Amlodipine 5mg daily. 

 # Hyperlipidemia: Continue home Lovastatin.     

 # ___ swelling: Patient takes furosemide 40mg daily, but she 
skips it frequently because she does not want to have to use the 
bathroom. Patient also endorses pain in her legs. Checked TSH, 
pending at time of discharge. Continue Furosemide 40mg daily. 

TRANSITIONAL ISSUES
=========================
-Free fluid in uterus: Incidental finding on CT. Not normal for 
her age. Does not localize to the site of her pain. Radiology 
recommended Pelvic ultrasound (non-urgent).  
-Consider Metformin as cause for diffuse abdominal pain.
-Dysuria: UA normal, consider vaginitis or urethritis work up as 
outpatient. 
-Consider EGD as outpatient for reflux work up even when on 
omeprazole 40mg BID. 
-Repeat LFTs at next PCP ___. 
-Avoid NSAIDs in setting of epigastric pain.
-Please f/u TSH, result was pending at time of discharge.  
-Consider increasing Gabapentin for further pain management and 
to avoid narcotics. 
-CODE: Full Code confirmed 
-CONTACT: Husband ___ ___  

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. TraMADol 50 mg PO Q8H:PRN pain 
2. amLODIPine 5 mg PO DAILY 
3. Omeprazole 40 mg PO BID 
4. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
5. Lovastatin 20 mg oral QHS 
6. Furosemide 40 mg PO DAILY 
7. Gabapentin 600 mg PO QHS 
8. TraZODone 50 mg PO QHS:PRN insomnia 
9. meloxicam 7.5 mg oral DAILY 

 
Discharge Medications:
1. amLODIPine 5 mg PO DAILY 
2. Furosemide 40 mg PO DAILY 
3. Gabapentin 600 mg PO QHS 
4. TraMADol 50 mg PO Q8H:PRN pain 
5. TraZODone 50 mg PO QHS:PRN insomnia 
6. Lovastatin 20 mg oral QHS 
7. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
8. Omeprazole 40 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
====================
-Abdominal pain

SECONDARY DIAGNOSIS
=====================
HTN
HLD
Morbid Obesity
DM II

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ came to our hospital for abdominal pain. While here, ___ had 
multiple tests including urine and blood and also imaging tests, 
all of which were normal except for your liver enzymes which 
were slightly elevated. However, these could be elevated at 
baseline and so given that the rest of your imaging was normal, 
___ should follow up closely with your primary care doctor. 

We wish ___ the best,

Your ___ Team
 
Followup Instructions:
___